US08202879B2
4-(3-Chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(1-oxo-2-butyn-1-yl)quinazoline (VII-4, 10 g) was dissolved in 300 ml of 1,4-dioxane, 1.5 equivalent of 2-(acetoxy)ethoxyamine was added, and 28 ml of 2 mol/L aqueous methanesulfonic acid solution was added, followed by stirring at 60° C. for 17 hours. The reaction mixture was poured into aqueous saturated sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, and dried over sodium sulfate. The residue obtained by concentrating the filtrate was recrystallized from hydrous ethanol-water, filtered, and dried to obtain 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(1-(2-hydroxyethoxyimino)-2-butyn-1-yl)quinazoline (VIII-33, 7.6 g) as a colorless solid.

reactant | 4-(3-Chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(1-oxo-2-butyn-1-yl)quinazoline | 10 g | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C(C#CC)=O | C25H17ClFN3O2
reactant | 2-(acetoxy)ethoxyamine | 1.5 equivalent | C(C)(=O)OCCON | C4H9NO3
reactant | methanesulfonic acid | 2 mol/L, 28 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(1-(2-hydroxyethoxyimino)-2-butyn-1-yl)quinazoline | 7.6 g | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C(C#CC)=NOCCO | C27H22ClFN4O3
